US04496584
Synthesis of 6-amidino-2-naphthyl ε-benzyloxycarbonylaminocaproate (Compound No. 16):
To a solution of 4.7 g of ε-benzyloxycarbonylaminocaproic acid in 50 ml of anhydrous pyridine, while being cooled in ice, was added 4.4 g of DCC. After stirring for 30 minutes, 5.0 g of 6-amidino-2-naphthol methanesulfonate was added to the mixture and stirred overnight at room temperature. The precipitate was separated by filtration and washed with a small volume of pyridine. The filtrate and the washings were added to stirred ethyl ether. The precipitated crystals were collected by filtration, recrystallized from an ethanol-ether mixture, and washed with acetone to obtain 6.2 g of white crystals of 6-amidino-2-naphthyl ε-benzyloxycarbonylaminocaproate methanesulfonate.

reactant | ε-benzyloxycarbonylaminocaproic acid | 4.7 g | C(C1=CC=CC=C1)OC(=O)NCCCCCC(=O)O | C14H19NO4
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl ε-benzyloxycarbonylaminocaproate | 6.2 g | C(C1=CC=CC=C1)OC(=O)NCCCCCC(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C25H27N3O4
